Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15],5.09903120051
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2],2.77663458048
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.32755785701
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.8866197813
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.78316372212
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.47740951608
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],0.664135694188
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9],4.09696694436
[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[C:8][O:9]1>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]=[O:9],-1.86134364
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10],7.423468976110001
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.35974954399000003
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5][H:6].[H:1][C:2][C:3]([H:4])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],8.78518372524
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.35268124413
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1].[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],7.187713026789999
[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.60290770654
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.98407191582
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],1.91074016715
[H:1][C:2]([H:3])=[C:4]=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.12108280789
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.4282029597
[H:13].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.00457594179
[C:4][O:5][H:6].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][O:5][H:6],-5.03761299227
[C:1]#[C:2][H:3].[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.20020013718
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],7.07739637798
[C:5]([H:6])([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.27620226453
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-8.5056943627
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.46956404356
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]#[C:8][H:9])[O:10][H:11]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:7]#[C:8][H:9])[O:10][H:11].[H:6],3.71140219883
[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-2.0282091386000003
